US04395559
15.46 g of 1-benzyl-4-methyl-7-methoxy-2,3-indoledione and 74 g of pyridine hydrochloride were heated to 200° C. for 2.5 hours. The mixture was partitioned between methylene chloride and aqueous dimethyl sulfoxide. The organic layer was separated and evaporated to give 3.75 g of crude 1-benzyl-4-methyl-7-hydroxy-2,3-indoledione in the form of a red solid having a melting point of 255°-262° C.

reactant | 1-benzyl-4-methyl-7-methoxy-2,3-indoledione | 15.46 g | C(C1=CC=CC=C1)N1C(C(C2=C(C=CC(=C12)OC)C)=O)=O | C17H15NO3
reactant | pyridine hydrochloride | 74 g | Cl.N1=CC=CC=C1
product | 1-benzyl-4-methyl-7-hydroxy-2,3-indoledione | 3.75 g | C(C1=CC=CC=C1)N1C(C(C2=C(C=CC(=C12)O)C)=O)=O | C16H13NO3
